US08202885B2
To a solution of 10.59 g of 2-chloro-5-methoxyaniline in 50 mL of AcOH were added dropwise at 0° C. 6.8 mL of acetic anhydride. The reaction mixture was allowed to warm up to rt, stirred for 6 h and concentrated in vacuo. The crude product was purified by CC using EtOAc/heptane 1/3 to yield 13.0 g of N-(2-chloro-5-methoxy-phenyl)-acetamide as white solid.

reactant | 2-chloro-5-methoxyaniline | 10.59 g | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
reactant | acetic anhydride | 6.8 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | N-(2-chloro-5-methoxy-phenyl)-acetamide | 13.0 g | ClC1=C(C=C(C=C1)OC)NC(C)=O | C9H10ClNO2
